US07906652B2
3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile
To a solution of 44 mg (0.86 mmol) of 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl) methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide (Preparation 19) in 2 mL CH2Cl2 was added 11.3 uL(0.215 mmol) of phosgene solution (20% in toluene) at 0° C., followed by stirring at rt. After 1.5 h, the solution was concentrated in vacuo to remove solvents and 2 mL of 2N NH3 in MeOH was added and the solution was concentrated again. The residue was purified by silica gel chromatography with CH2Cl2/acetone to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.22(d, 3H, J=22 Hz), 1.28(d, 3H, J=22 Hz), 2.36 (t, 1H, J=8 Hz), 2.91 (t, 1H, J=8 Hz), 2.96 (m, 1H), 3.12 (t, 1H, J=7 Hz), 3.27 (m, 1H), 3.64 (t, 1H, J=6 Hz), 4.30 (s, 1H), 7.06-7.71 (m, 12H); Mass Spectrum: m/e=535 (M+1, 35Cl), 537 (M+1, 37Cl).

reactant | 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl) methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide | 0.86 mmol, 44 mg | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C(=O)NN)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H27ClF2N4O
reactant | phosgene | 0.215 mmol, 11.3 uL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)C=1OC(NN1)=O)F | C29H25ClF2N4O2
